US06756378B2
To a stirred solution of thiazolidine-4-carboxylic acid (5.0 g, 37.6 mmol) in DMF (50.0 ml) was added (Boc)2O (9.8 g, 45.1 mmol) and TEA (8.0 ml). The reaction mixture was stirred at room temperature for 18 hr. Water was added to the mixture and extracted with EtOAc. The organic layer was washed with water, then dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with EtOAc-n-hexane (1:3 v/v) as eluent to give 3-tert-butoxycarbonylthiazolidine-4-carboxylic acid (6.5 g, 74%) as a white crystalline solid. 1H-NMR (CDCl3) δ1.49 (br s, 9H), 3.20-3.30 (m, 2H), 4.09-4.87 (m, 3H).

reactant | thiazolidine-4-carboxylic acid | 37.6 mmol, 5.0 g | S1CNC(C1)C(=O)O | C4H7NO2S
reactant | (Boc)2O | 45.1 mmol, 9.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | DMF | 50.0 ml | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonylthiazolidine-4-carboxylic acid | 6.5 g, 74% | C(C)(C)(C)OC(=O)N1CSCC1C(=O)O | C9H15NO4S
